US08383637B2
(4-Amino-3-{[3-(cyclohexyl-methyl-amino)-propylamino]-methyl}-phenyl)-phenyl-methanone
A mixture of 5-benzoyl-2-nitrobenzaldehyde (0.0058 mol) in THF (100 ml) was hydrogenated with 10% Pd/C (1 g) as a catalyst in the presence of 4% thiophene solution (1 mL). After uptake of H2 (3 equiv), the mixture was put in an autoclave. N-cyclohexyl, N-methyl-propane-1,3-diamine (0.01 mol) and CaH2 (0.5 g) were added and the mixture was reacted under 10 atm of CO2 and 50 atm of H2 at 50° C. for 16 hours. When the reaction was complete, the mixture was purified over silica gel on a glass filter (eluent: 90:10 CH2Cl2:(CH3OH:NH3)). The product fractions were collected and the solvent was evaporated to yield the title compound as a residue.

reactant | 5-benzoyl-2-nitrobenzaldehyde | 0.0058 mol | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H9NO4
reactant | thiophene | 1 mL | S1C=CC=C1 | C4H4S
reactant | N-methyl-propane-1,3-diamine | 0.01 mol | CNCCCN | C4H12N2
reactant | CO2 | C(=O)=O | CO2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | (4-Amino-3-{[3-(cyclohexyl-methyl-amino)-propylamino]-methyl}-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)C(=O)C1=CC=CC=C1)CNCCCN(C)C1CCCCC1 | C24H33N3O
